US04935432
A mixture of 4-hydroxy-3,5-dimethylbenzaldehyde (5 g), N,N-diisopropylethylamine (6.9 ml), (2-methoxyethoxy)methylchloride (4.26 ml) and 1,2-dichloroethane (65 ml) was refluxed for 5 hours. The reaction mixture was washed with water and dried over magnesium sulfate. After removal of the solvent, the residue was subjected to column chromatography on silica gel and eluted with a mixture of n-hexane and ethyl acetate (8:2 V/V). The fractions containing the object compound were combined and concentrated under reduced pressure to give 4-[(2-methoxyethoxy)methoxy]-3,5-dimethylbenzaldehyde (6.54 g).

reactant | 4-hydroxy-3,5-dimethylbenzaldehyde | 5 g | OC1=C(C=C(C=O)C=C1C)C | C9H10O2
reactant | N,N-diisopropylethylamine | 6.9 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2-methoxyethoxy)methylchloride | 4.26 ml | COCCOCCl | C4H9ClO2
solvent | 1,2-dichloroethane | 65 ml | ClCCCl | C2H4Cl2
product | 4-[(2-methoxyethoxy)methoxy]-3,5-dimethylbenzaldehyde | 6.54 g | COCCOCOC1=C(C=C(C=O)C=C1C)C | C13H18O4
